US07038077B2
Synthesis of Benzo[b]thiophene-2-methanol
A solution of benzo[b]thiophene-2-carbaldehyde (2.216 g, 13.66 mmol) in THF (60 mL) was reacted with sodium borohydride (0.517 g, 13.66 mmol) at room temperature for 3 h. The reaction was quenched with 1N hydrochloric acid at 0° C., the THF evaporated under vacuum and the aqueous residue extracted with diethyl ether. The organic extract was washed with brine, dried over MgSO4 and concentrated to afford the title compound as a yellow solid (2.23 g, 98%).

reactant | benzo[b]thiophene-2-carbaldehyde | 13.66 mmol, 2.216 g | S1C2=C(C=C1C=O)C=CC=C2 | C9H6OS
reactant | sodium borohydride | 13.66 mmol, 0.517 g | [BH4-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Benzo[b]thiophene-2-methanol | 2.23 g, 98% | S1C2=C(C=C1CO)C=CC=C2 | C9H8OS
